Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim Ds
 
Attending: ___.
 
Chief Complaint:
S/p fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is an ___ year old female recently diagnosed with 
___ Disease with history of DM2, HTN, hypothyroidism and 
chronic anemia who was found down. The patient has no 
recollection of the fall, and in fact does not remember most of 
the events of the day prior to admission. Her daughter reports 
that she was out of touch for approximately a day and a half. At 
10pm last night, prior to admission, she began calling her 
mother, who did not answer the phone. She called all night 
without any response. Then, first thing in the morning, she 
called a neighbor to check in on her. Per her report, the 
patient was sitting on the ground, had been incontinent of urine 
and stool.  Her daughter then called EMS. 
.
Per EMS report, patient was found sitting on the floor, GCS 15, 
AAOx3, BS 125.  She was transported to the ED, and at that time, 
was only complaining of a sore left knee.
.
In the ED, vitals signs showed T 97.2 HR 63 BP 149/69 RR 18 98% 
on RA.  It does not appear that the patient received any 
medications or fluids at that time.
.
Of note, the patient walks with a cane at baseline as she has 
refused using a walker.  She has been prescribed an emergency 
response device which she does not wear. Per OMR, she has a 
history of multiple falls as a result of imbalance. In fact, one 
episode approximately 3 months ago at which time she fell and 
was unable to get up so remained on the floor the duration of 
the night.  She was seen in the ED at that time and discharged 
with a negative work up other than a positive UA treated with 
Cipro.  Per her daughter, the only difference between this fall 
and her last is the fact that she does not remember the events 
preceding the fall.
.
In addition, the patient's daughter reports that the patient has 
been progressively declining over the past ___ years.  She is 
very independent, however, she is increasingly forgetful and has 
periods of confusion.  The daughter noticed this most recently 
when she brought her mother to ___ several months ago, and 
reports that she has had difficulty returning to her normal 
routine.  She is unclear whether her mother is compliant with 
her medications or not.  She does participate in adult daycare 
three days a week. The daughter is unsure if she was able to 
make it to daycare on the day prior to admission.
.
On ROS, denies fevers, chills, nausea, vomiting, hematuria, 
hematochezia, melena, abdominal pain, shortness of breath, chest 
pain.  No dizziness, lightheadedness, vision changes, headache, 
new weakness or paresthesias.  Her only positive on review of 
systems is pain with movement of her left knee.

 
Past Medical History:
- Early ___ Disease dx in ___
- Hypertension
- Hypercholesterolemia
- History of breast cancer s/p lumpectomy in ___ (Focal lobular 
carcinoma in situ, clean margins)
- Hypothyroidism secondary to thyroidectomy in ___ due to 
multinodular goiter
- Type II DM, diet controlled
- Venous stasis
- Chronic Anemia
- Chronic urinary incontinence
- S/p cholecystectomy in ___
- L Cataract surgery, corneal transplant
- S/p appendectomy
- History of lichen simplex chronicus

 
Social History:
___
Family History:
Her mother died of cardiac problems.  Father died in his ___ 
during World War II.  She has two brothers, one who was killed 
in World War II and she has no information about second.  Her 
daughter is ___ maternal grandfather had diabetes. 

 
Physical Exam:
Vitals: T 97.1 BP 124/68  R 20 P 57 94% on RA 
General: WNWD female, mildly disheveled, in NAD, conversant and 
pleasant
HEENT: NCAT, slightly masked facies, protuberant tongue, EOMI, R 
surgical pupil
Neck: Supple, JVP flat
CV: RRR, ___ SEM at apex without radiation to axilla, no carotid 
bruits
Lungs: CTAB, decreased breath sounds at bilateral bases, no 
wheezes/rales
Abd: Soft, nontender, nondistended, no HSM, normoactive bowel 
sounds
Ext: 2+ distal pulses, erythema on bilateral shins/ankles per 
daughter is chronic for childhood erysipelas, suprapatellar 
effusion, no discoloration or ecchymosis, nontender to palpation 
but painful with both passive and active flexion of the knee 
Neuro: CN2-12 intact, mild tremor in bilateral upper 
extremities, gait deferred at this time
 
Pertinent Results:
ECG showing sinus brady with a rate of 58 bpm, indeterminate 
axis, normal intervals, TWF in avL, normal R-wave progression 
(early RWP in prior dated ___ no other STT wave changes, no 
other changes since prior dated ___
.
Studies:
UNDERLYING MEDICAL CONDITION:
___ year old woman with left knee pain S/P fall 
REASON FOR THIS EXAMINATION:
R/O fracture 
THREE VIEWS OF THE LEFT KNEE DATED ___.
HISTORY: An ___ woman with left knee pain, status post 
fall; rule out fracture.
FINDINGS: Three views were compared with remote study dated 
___. There is a moderate suprapatellar joint effusion, 
likely new. Allowing for the limitation of diffuse osteopenia, 
no acute fracture is seen. There is three-compartment 
degenerative change, most marked laterally with marked joint 
space narrowing and valgus angulation (on these non-standing 
views), as well as prominent marginal osteophytes, all 
unchanged. No acute abnormality of alignment is identified.
.
UNDERLYING MEDICAL CONDITION:
___ year old woman with unwitnessed fall 
REASON FOR THIS EXAMINATION:
R/O bleed 
CONTRAINDICATIONS for IV CONTRAST: None.
INDICATION: ___ woman with unwitnessed fall.
COMPARISON: CT head of ___.
TECHNIQUE: Contiguous axial images were obtained through the 
brain. No contrast was administered.
FINDINGS: There is no evidence of hemorrhage, masses, shift of 
normally midline structures, or major vascular territorial 
infarct. Ventriculomegaly is unchanged since ___, but has 
progressed since ___. Ventriculomegaly is disproportional to 
sulcal enlargement. Diagnostic considerations include 
communicating hydrocephalus versus central atrophy. 
Periventricular white matter hypodensities are seen, 
particularly adjacent to the posterior horn of the left lateral 
ventricle, which is the most dilated portion. These white matter 
changes may represent transependymal migration of CSF versus 
underlying white matter small vessel ischemia.
Examination of bony structures reveals stable mucosal thickening 
of the ethmoid air cells and right maxillary sinus. No fractures 
are identified.
IMPRESSION:
1. No intracranial hemorrhage or major vascular infarct.
2. Ventriculomegaly representing communicating hydrocephalus 
versus central atrophy.
.
UNDERLYING MEDICAL CONDITION:
___ year old woman with fall and neck pain 
REASON FOR THIS EXAMINATION:
R/o fracture 
CONTRAINDICATIONS for IV CONTRAST: None.
INDICATION: ___ woman with fall and neck pain.
COMPARISON: CT C-spine of ___.
TECHNIQUE: Contiguous axial images were obtained through the 
cervical spine. No contrast was administered.
FINDINGS: No fractures are identified. Alignment is grossly 
normal. There is no prevertebral soft tissue abnormality. 
Degenerative changes are seen at multiple levels, unchanged from 
the prior examination.
IMPRESSION: 
1. No acute fracture or malalignment.
2. Stable appearance of extensive degenerative disease.
.
Labs:
___ 10:45AM BLOOD WBC-7.8 RBC-4.67 Hgb-13.7 Hct-40.9 MCV-88 
MCH-29.3 MCHC-33.5 RDW-14.3 Plt ___
___ 10:45AM BLOOD Neuts-70.3* ___ Monos-6.7 Eos-0.9 
Baso-0.3
___ 10:45AM BLOOD Glucose-118* UreaN-30* Creat-1.1 Na-140 
K-4.2 Cl-102 HCO3-27 AnGap-15
___ 01:40PM URINE Color-Yellow Appear-Clear Sp ___
___ 01:40PM URINE Blood-LG Nitrite-POS Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-TR
___ 01:40PM URINE ___ Bacteri-MANY 
Yeast-NONE ___

___ 06:45AM BLOOD WBC-5.3 RBC-4.21 Hgb-12.6 Hct-37.6 MCV-89 
MCH-29.9 MCHC-33.4 RDW-13.8 Plt ___
___ 06:45AM BLOOD ___ PTT-28.7 ___
___ 06:45AM BLOOD Glucose-73 UreaN-27* Creat-1.0 Na-143 
K-4.2 Cl-107 HCO3-29 AnGap-11
___ 06:45AM BLOOD ALT-4 AST-44* LD(LDH)-202 CK(CPK)-895* 
AlkPhos-69 TotBili-0.5
___ 09:10PM BLOOD CK(CPK)-1241*
___ 06:45AM BLOOD Calcium-8.3* Phos-3.1 Mg-2.0
___ 09:10PM BLOOD TSH-22*
___ 09:10PM BLOOD Free T4-0.93
___ 05:45AM BLOOD WBC-4.7 RBC-4.36 Hgb-13.0 Hct-38.3 MCV-88 
MCH-29.8 MCHC-33.9 RDW-14.2 Plt ___
___ 05:45AM BLOOD Plt ___
___ 05:45AM BLOOD Glucose-108* UreaN-20 Creat-1.0 Na-140 
K-4.1 Cl-106 HCO3-29 AnGap-9
___ 05:45AM BLOOD Calcium-8.2* Phos-2.8 Mg-1.___ssessment and Plan: The patient is an ___ year old patient with 
a history of PD and multiple falls who presents after being 
found down after an unwitnessed fall.
.
# Fall: Difficult to determine cause as patient does not 
remember the events. She does have a history of frequent falls, 
likely a combination of ___ gait instability as well as 
dysautonomia.  In addition, patient's Lisinopril was recently 
increased rom 20 to 30mg daily on ___, though it is difficult 
to determine if her event was preceded by presyncopal symptoms 
as she does not remember the event.  She also has a positive UA 
in the ED which may have contributed and she was started on 
ciprofloxacin on ___ to complete a ___CG in the ED 
was unremarkable and and she ruled out for MI by three sets of 
cardiac enzymes.  Also may have been slightly dehydrated given 
increased BUN and creatinine slightly above baseline of 0.8-1.0 
which may have contributed to possible orthostasis.  Her heart 
rate was low during her admission, with rates in th ___ 
overnight while her Atenolol was held.  She was decreased to 
25mg Atenolol daily which she tolerated well.  TSH was found to 
be 50 on check ___. Patient reports being compliant with all 
her meds, however, per her daughter, she has missed them in the 
passed, and has been progressively more confused over the last 
few month.  It was decided to continue her home dose of 
medications as it was felt to be most likely that the patient 
was not taking her meds and this should be followed up within 
one month.  
.
# UTI: Patient has a history of stress incontinence and was most 
recently treated for a UTI in ___ when she presented to the ED 
after a syncopal episode and was found to have a UTI at that 
time. UA in the ED positive for UTI, ucx positive for E. Coli.  
She was started on cipro to complete a 7 day course.
.
# Hypothyroidism: Patient has a history of total thyroidectomy 
secondary to multinodular goiter. TSH last checked on ___ was 
50. On repeat TSH was found to be 22, and FT4 0.93. Per 
patient's daughter who performed a pill count, the patient has 
not been taking her unithroid.  It was decided to restart the 
dose she should have been taking as likely non-compliance.  She 
should have repeat TFTs in one month.
.
# PPx: SQ heparin, bowel regimen
.
# Code: FULL as confirmed with patient and daughter
.
# Dispo: rehab
 
Medications on Admission:
Per ___ pharmacy on Mass Ave
- Fish Oil 1000mg cap daily
- Enablex 7.5mg q24 (last filled on ___ without refills)
- ASA 81
- Atenolol 50mg daily
- Lisinopril 30mg daily
- Simvastatin 20mg daily
- Cyanocobalmin 1000mcg/mL qmonth
- Unithroid ___ daily
- Carbidopa-Levodopa ___, 1 tab TID
- Rhinocort Aqua 32mcgt/Actuation nasal spray 2 puff BID, last 
filled in ___
- Timolol drops
- Xalatan drops
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Atenolol 50 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
3. Timolol Maleate 0.25 % Drops Sig: One (1) Drop Ophthalmic BID 
(2 times a day).  
4. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
5. Lotemax 0.5 % Drops, Suspension Sig: One (1)  Ophthalmic 
daily ().  
6. Lisinopril 10 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
7. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
8. Carbidopa-Levodopa ___ mg Tablet Sig: One (1) Tablet PO 
TID (3 times a day).  
9. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.  
11. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
12. Ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q12H 
(every ___ hours) for 7 days: day one ___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
unsteady gait 
falls 
syncope 
___ disease 
urinary tract infection 
 
secondary diagnoses: 
hypertension 
hypercholesterolemia 
urinary incontinence 
chronic anemia 

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted after a fall.  The physical therapists worked 
with you and recommended rehab.

We have changed your Atenolol to 25mg daily instead of 50mg 
daily as your heart rate has been slow while you are here.  You 
should take this lower dose until your next doctor appointment 
at which time they will tell you what dose you should be taking.

Please return to the hospital if you experience fevers, chills, 
chest pain, shortness of breath, abdominal pain, 
lightheadedness, weakness, numbness, tingling, difficulties with 
speech or other concerning symptoms.
 
Followup Instructions:
___